US03947466
In the manner given in Example 23 a solution of 8-chloro-1-(aminomethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine in acetonitrile is treated with formalin, sodium cyanoborohydride and acetic acid to give 8-chloro-1-[(dimethylamino)methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 8-chloro-1-(aminomethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CN)C3=C(C=CC=C3)Cl)C1 | C17H13Cl2N5
reactant | formalin | C=O | CH2O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetonitrile | C(C)#N | C2H3N
product | 8-chloro-1-[(dimethylamino)methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CN(C)C)C3=C(C=CC=C3)Cl)C1 | C19H17Cl2N5
